US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)methanone
Following general procedure M, (6-bromo-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclo propyl)methanone (47 mg, 0.10 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.15 mmol) to afford the desired product (34 mg, 61%) as an off-white solid. 1H NMR (500 MHz, MeOD) δ 9.13 (s, 1H), 8.34 (d, J=2.0 Hz, 1H), 7.98 (dd, J=8.7, 2.0 Hz, 1H), 7.92-7.87 (m, 1H), 7.63 (s, 2H), 4.59-4.54 (m, 1H), 4.53-4.47 (m, 1H), 4.17-4.11 (m, 1H), 3.16-3.10 (m, 2H), 2.94 (d, J=7.0 Hz, 2H), 2.88-2.79 (m, 1H), 2.33 (d, J=12.9 Hz, 2H), 2.28-2.17 (m, 1H), 2.06-1.96 (m, 3H), 1.84 (br s, 1H), 1.59 (q, J=12.2 Hz, 2H), 1.31-1.06 (m, 6H). ESI MS m/z 554 [C30H33Cl2N3O3+H]+; HPLC>99% (AUC), tR=11.11 min.

reactant | (6-bromo-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclo propyl)methanone | 0.10 mmol, 47 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CC(CC1)O | C24H30BrN3O2
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)methanone | 34 mg, 61% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CN1CC(CC1)O)C1=CC(=C(C(=C1)Cl)O)Cl | C30H33Cl2N3O3
